US06620811B2
N-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-2-(3-methoxy-piperidin-1-yl)-isonicotinamide
From 2-bromo-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide with cesium carbonate and 3-methoxy-piperidine. ES-MS m/e (%): 484 (M+H+, 100).

reactant | 2-bromo-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide | BrC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=CN1 | C18H17BrN4O3S
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-methoxy-piperidine | COC1CNCCC1 | C6H13NO
product | N-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-2-(3-methoxy-piperidin-1-yl)-isonicotinamide | COC1=CC=C(C2=C1N=C(S2)NC(C2=CC(=NC=C2)N2CC(CCC2)OC)=O)N2CCOCC2 | C24H29N5O4S
